### PR TITLE
Disprove WOWII 59

### LINKED ISSUE #4573: Formalize the counterexample to WOWII Conjecture 59
## Summary

I found a structured counterexample to Written on the Wall II Conjecture 59,
currently formalized in
`FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean` as

```text
f(G) >= ceil(sqrt(residue(G) * b(G))).
```

The counterexample is derived analytically; it was not found by exhaustive
enumeration of graphs.

## Explicit graph

Let `B` be the bipartite graph with parts
`X={x_0,...,x_11}` and `Y={y_0,...,y_11}`, where

```text
x_i y_j is an edge iff (j-i) mod 12 is in {0,1,2,3,4,5,6}.
```

Thus `B` is 7-regular. Let `H = B disjoint_union I_98`, and let `G` be the cone
over `H`: add one vertex `u` adjacent to every vertex of `H`.

The graph `G` is connected, has 123 vertices and 206 edges, and has

```text
residue(G) = 101
b(G)       = 122
f(G)       = 111.
```

Consequently,

```text
residue(G) * b(G) = 101 * 122 = 12322 = 111^2 + 1,
ceil(sqrt(12322)) = 112 > 111 = f(G).
```

## Why the invariant values are exact

- The degree sequence is `[122, 8^24, 1^98]`. Its first Havel--Hakimi step is
  `[7^24, 0^98]`; three-step blocks reduce
  `[d^(3(d+1)),0^m]` to `[(d-1)^(3d),0^m]`, ending at `[0^101]`.
- Deleting `u` leaves a bipartite induced subgraph on 122 vertices, while
  `u,x_0,y_0` is a triangle; hence `b(G)=122`.
- An edge-count argument gives `f(B)=13`. If an induced subgraph selects `a`
  and `b` vertices from the two parts with `a+b>=14`, exchange the parts so
  that `a>=b`. It then has at least `b(a-5)>=a+b` edges, so it contains a
  cycle. A full part plus one opposite vertex gives a 13-vertex forest.
- The matching `{x_i y_i}` proves `alpha(B)=12`. A forest containing `u` can
  use only an independent set outside `u`; a forest omitting `u` uses at most
  13 core vertices. Both cases give the upper bound 111, attained by
  `{u} union X union I_98`.

## Infinite family

For `t>=4`, put `k=3t` and `d=2t-1`, use the analogous cyclic `d`-regular
bipartite core with two parts of size `k`, add `m` isolated vertices, and take
the cone. Then

```text
r=m+3, b=m+2k, f=m+k+1,
r*b-f^2 = m-k^2+4k-1.
```

Every `m>=k^2-4k+2` is therefore a counterexample.

## Verification artifacts

- Mathematical report: [repository README](https://github.com/QDKStorm/wowii59-counterexample#readme)
- Explicit edge list: [`counterexample.edgelist`](https://github.com/QDKStorm/wowii59-counterexample/blob/main/counterexample.edgelist)
- Structural certificate verifier: [`verify_counterexample.py`](https://github.com/QDKStorm/wowii59-counterexample/blob/main/verify_counterexample.py)
- Lean certificate: [`Counterexample59.lean`](https://github.com/QDKStorm/wowii59-counterexample/blob/main/Counterexample59.lean)

The Lean certificate directly checks the explicit graph's cardinality,
connectedness, sorted degree sequence, graph-level residue, and the final
ceiling inequality using the repository's definitions. The exact values of
`b(G)` and `f(G)` are currently established by the structural proof above and
checked by the certificate verifier; they are not yet fully formalized in Lean.

## Public-record check

As of 2026-07-23, I did not locate an earlier public proof or disproof of this
exact conjecture. The original WOWII open list still marks entry 59 `O`, the
resolved list does not contain it, and before filing this report I found no
matching issue or PR in this repository. This is a search report, not a claim
that unpublished work cannot exist.

## Proposed repository change

I plan to submit a small PR that marks Conjecture 59 as false/solved, following
the neighboring `answer(False)` pattern used for false WOWII conjectures, and
links the external verification artifact. I would appreciate maintainer guidance
on whether that representation is preferred here.

- [x] I plan to work on this issue.

## AI assistance disclosure

OpenAI Codex assisted with literature searching, construction development,
Lean engineering, verification code, and drafting. I reviewed the mathematical
argument and reproducible outputs before submission.

### PR DESCRIPTION
**Pull request by QDKStorm**
Closes #4573.

## What changed

- Changes WOWII Conjecture 59 from `research open` to `research solved`.
- Represents the negative answer using the repository's existing
  `answer(False) ↔ ∀ G, ...` pattern for false WOWII conjectures.
- Documents the explicit 123-vertex counterexample with
  `(residue,b,f)=(101,122,111)`.
- Links the public report, verifier, explicit edge list, and Lean certificate:
  https://github.com/QDKStorm/wowii59-counterexample.

## Mathematical check

```text
101 * 122 = 12322 = 111^2 + 1
ceil(sqrt(12322)) = 112 > 111
```

The construction is a cone over the disjoint union of 98 isolated vertices and
a cyclic 7-regular bipartite graph with parts of size 12. The linked report
proves all three invariant values structurally and gives an infinite family.

## Verification

```text
python3 verify_counterexample.py --write-edge-list counterexample.edgelist
lake --wfail build
```

- The Python verifier checks structural certificates and does not enumerate
  graphs or optimize over vertex subsets.
- The external Lean file checks the explicit graph's connectedness, sorted
  degree sequence, residue, and final numerical violation.
- The exact `b` and `f` proofs are currently informal plus certificate-checked,
  not fully formalized in Lean.

## AI assistance disclosure

OpenAI Codex assisted with literature searching, construction development,
Lean engineering, verification code, and drafting. The contributor reviewed
the mathematical argument and reproducible outputs.

### CODE REVIEW

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean [hunk 1]
```diff
@@ -19,8 +19,9 @@ import FormalConjecturesUtil
 /-!
 # Written on the Wall II - Conjecture 59
 
-*Reference:*
-[E. DeLaVina, Written on the Wall II, Conjectures of Graffiti.pc](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+*References:*
+- [E. DeLaVina, Written on the Wall II, Conjectures of Graffiti.pc](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+- [Z. Zhang, A Structured Counterexample to WOWII 59](https://github.com/QDKStorm/wowii59-counterexample)
```
Comment (danielchin) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean]:
```suggestion
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean [hunk 2]
```diff
@@ -39,10 +40,16 @@ after applying the Havel-Hakimi algorithm to the degree sequence until terminati
...
 See: Favaron, Mahéo, Saclé (1991) for the residue; DeLaVina's Graffiti.pc for the conjecture.
+
+This conjecture is false. There is a connected counterexample on 123 vertices
+with `residue G = 101`, `b G = 122`, and `G.largestInducedForestSize = 111`.
+Indeed, `101 * 122 = 12322 = 111 ^ 2 + 1`, so the conjectured lower bound is 112.
 -/
-@[category research open, AMS 5]
-theorem conjecture59 (G : SimpleGraph α) [DecidableRel G.Adj] (h : G.Connected) :
-    ⌈Real.sqrt ((residue G : ℝ) * b G)⌉ ≤ (G.largestInducedForestSize : ℝ) := by
+@[category research solved, AMS 5]
```
Comment (danielchin) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean]:
```suggestion
@[category research solved, AMS 5, formal_proof using lean4 at https://github.com/QDKStorm/wowii59-counterexample/blob/main/Counterexample59.lean]
```

**Review by danielchin — CHANGES_REQUESTED** [review]

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean [hunk 3]
```diff
@@ -57,4 +63,18 @@ step gives $[0]$, leaving a single zero. -/
...
+    rw [Int.ceil_eq_iff]
+    have hsquare : Real.sqrt (12322 : ℝ) ^ 2 = 12322 := by
+      rw [Real.sq_sqrt]
+      norm_num
+    have hsqrt_nonneg : 0 ≤ Real.sqrt (12322 : ℝ) := Real.sqrt_nonneg _
+    norm_num
+    constructor <;> nlinarith
+  rw [hceil]
+  norm_num
+
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean]:
```suggestion

```

Seems like this is a rather trivial part of the proof that we don't need to record here.

**Review by mo271 — COMMENTED** [review]
Thanks, and congrats on finding the counterexample!
Left a comment

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

**Comment by Danie-I** [comment]
Congratulations on counterexample. Conjecture looks well formalized. LGTM.

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean [hunk 4]
```diff
@@ -39,10 +39,16 @@ after applying the Havel-Hakimi algorithm to the degree sequence until terminati
...
 See: Favaron, Mahéo, Saclé (1991) for the residue; DeLaVina's Graffiti.pc for the conjecture.
+
+This conjecture is false. There is a connected counterexample on 123 vertices
+with `residue G = 101`, `b G = 122`, and `G.largestInducedForestSize = 111`.
+Indeed, `101 * 122 = 12322 = 111 ^ 2 + 1`, so the conjectured lower bound is 112.
 -/
-@[category research open, AMS 5]
-theorem conjecture59 (G : SimpleGraph α) [DecidableRel G.Adj] (h : G.Connected) :
-    ⌈Real.sqrt ((residue G : ℝ) * b G)⌉ ≤ (G.largestInducedForestSize : ℝ) := by
+@[category research solved, AMS 5, formal_proof using lean4 at https://github.com/QDKStorm/wowii59-counterexample/blob/main/Counterexample59.lean]
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture59.lean]:
```suggestion
@[category research solved, AMS 5, formal_proof using lean4 at "https://github.com/QDKStorm/wowii59-counterexample/blob/main/Counterexample59.lean"]
```
